US06093732
3-(3-{[(4-Chlorobenzyl)amino]carbonyl}-4-hydroxy-6-quinolinyl)propyl hydrogen phosphonate
A solution of 50.0 mg of tert-butyl 3-(3-{[(4-chlorobenzyl)amino]carbonyl}-4-hydroxy-6-quinolinyl)propyl phosphonate from Example No. 270 in 0.5 mL of 1:1 TFA-dichloromethane is stirred for 2 h, then added slowly to 20 mL of rapidly stirred hexane. The resulting solution was concentrated under reduced pressure to provide 45.6 mg of the title compound as a white crystalline solid.

reactant | tert-butyl 3-(3-{[(4-chlorobenzyl)amino]carbonyl}-4-hydroxy-6-quinolinyl)propyl phosphonate | 50.0 mg | P(OC(C)(C)C)(OCCCC=1C=C2C(=C(C=NC2=CC1)C(=O)NCC1=CC=C(C=C1)Cl)O)=O | C24H28ClN2O5P
reactant | hexane | CCCCCC | C6H14
solvent | TFA dichloromethane | 0.5 mL | C(=O)(C(F)(F)F)O.ClCCl
product | 3-(3-{[(4-Chlorobenzyl)amino]carbonyl}-4-hydroxy-6-quinolinyl)propyl hydrogen phosphonate | 45.6 mg | P(OCCCC=1C=C2C(=C(C=NC2=CC1)C(=O)NCC1=CC=C(C=C1)Cl)O)(O)=O | C20H20ClN2O5P
